US05093432
A mixture consisting of 100 g 2-chloroethanol (12.4 mol), 573 g epichlorohydrin (6.2 mol) and 20 g of an acidic i9n exchange resin was refluxed for 24 hours. The mixture was then filtered to remove the ion exchange resin and the excess alcohol and unreacted epichlorohydrin were removed by distillation. The residue was distilled under vacuum and the product 1-chloro-3-(2-chloroethoxy)-2-propanol (804 g, 75% yield) distilled between 89° and 91° C. at 0.05mm Hg.

reactant | 2-chloroethanol | 12.4 mol, 100 g | ClCCO | C2H5ClO
reactant | epichlorohydrin | 6.2 mol, 573 g | C(Cl)C1CO1 | C3H5ClO
product | 1-chloro-3-(2-chloroethoxy)-2-propanol | 804 g, 75% yield | ClCC(COCCCl)O | C5H10Cl2O2
